US05677321
4-Methyl-5-nitroindole
To a solution of 5-nitroindole (from Aldrich, 0.82 g, 5.1 mmol) in 20 mL of dry THF was added 5.0 mL (15 mmol) of methylmagnesium bromide for 0.5 h period and the resulting reaction mixture was stirred for 1 h at 25° C. Reaction was the quenched by adding a THF solution of tetrachloro-1,4-benzoquinone (1.2 g, 4.9 mmol). Reaction mixture was concentrated in vacuo, yielding a dark solid which was subjected to column chromatography (30% EtOAc/n-Hexane) to yield 0.72 g (4.1 mmol, 80%) of the desired product.

reactant | 5-nitroindole | 5.1 mmol, 0.82 g | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | methylmagnesium bromide | 15 mmol, 5.0 mL | C[Mg]Br
reactant | tetrachloro-1,4-benzoquinone | 4.9 mmol, 1.2 g | ClC1=C(C(C(=C(C1=O)Cl)Cl)=O)Cl | C6Cl4O2
reactant | EtOAc n-Hexane | CCOC(=O)C.CCCCCC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-Methyl-5-nitroindole | 4.1 mmol, 0.72 g, 80% | CC1=C2C=CNC2=CC=C1[N+](=O)[O-] | C9H8N2O2
